US05376634
To a solution of thionyl chloride (0.692 ml) and N,N-dimethylformamide (0.022 ml) was added sodium 6-octyloxy-2-naphthalenesulfonate (1 g) under ice-cooling and stirred for 1.5 hours at 95° C. The reaction mixture was evaporated under reduced pressure to give 6-octyloxy-2-naphthylsulfonyl chloride (1 g).

reactant | thionyl chloride | 0.692 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium 6-octyloxy-2-naphthalenesulfonate | 1 g | C(CCCCCCC)OC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 0.022 ml | CN(C=O)C | C3H7NO
product | 6-octyloxy-2-naphthylsulfonyl chloride | 1 g | C(CCCCCCC)OC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C18H23ClO3S
